US04113940
Acetic acid (3 ml) and zinc powder (2.4 g) were added under stirring and ice-cooling to a solution of 2,2,2-trichloroethyl 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate (1.8 g) in anhydrous dimethyl-formamide (10 ml), and the mixture was stirred for 1 hour at the same temperature. After the reaction, zinc powder was filtered off, and the filtrate was extracted by pouring into a mixture of 5% hydrochloric acid (50 ml) and ethyl acetate (40 ml). The ethyl acetate layer was washed with water and dried. After the solvent was distilled off, the residue was dissolved in ether and allowed to stand, after which the precipitating crystals were collected by filtration and dried to give 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylic acid (1.2 g), mp 175° C. (dec.).

reactant | Acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | 2,2,2-trichloroethyl 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylate | 1.8 g | CC1S[C@H]2N(C(=C1)C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC=2SC=CC2)=O)=O | C16H15Cl3N2O4S2
solvent | dimethyl-formamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 2.4 g | [Zn] | Zn
product | 2-methyl-7-[2-(2-thienyl)acetamido]-3-cephem-4-carboxylic acid | 1.2 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(CC=2SC=CC2)=O)=O | C14H14N2O4S2
